US05914339
5-{2-[2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-(3-trimethylsilanyl-propyl) ester
The title compound was prepared from 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid and 3-trimethylsilylpropanol according to the procedure of Example 30 as a white foam (HCl salt); 1H NMR (CDCl3) δ 0.01 (s, 18H), 0.46 (m, 4H), 1.33 (d, J=6.3 Hz, 3H), 1.70 (m, 4H), 2.80 (m, 1H), 3.18 (m, 2H), 3.46(m 2H), 4.24(t, J=7.0 Hz, 4H), 5.47 (bd, J=9.7 Hz, I H), 5.70 (bs, 1H), 6.80 (m, 3H), 7.25 (m, 2H), 7.43 (s, 1H), 8.70 (bs, 1H), 10.10 (bs, 1H); IR (KBr): 1765 cm-1 (C=O); MS (ES) m/z 650 (MH+); [α]D25 -22° (c, 1.0, CHCl3). Anal. Calcd. for C32H48ClNO7Si2 ·HCl: C, 55.96; H, 7.04; N, 2.04 Cl, 10.32; Si, 8.18. Found: C, 55.82; H, 7.21; N, 1.87; Cl, 10.22; Si, 7.76.

reactant | 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid | ClC=1C=C(C=CC1)C(CNC(CC1=CC2=C(OC(O2)(C(=O)O)C(=O)O)C=C1)C)O | C20H20ClNO7
reactant | 3-trimethylsilylpropanol | C[Si](CCCO)(C)C | C6H16OSi
reactant | HCl | Cl | ClH
reactant | KBr | [K+].[Br-]
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 5-{2-[2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-(3-trimethylsilanyl-propyl) ester | C[Si](CCCOC(=O)C1(OC2=C(O1)C=CC(=C2)CC(C)NCC(O)C2=CC(=CC=C2)Cl)C(=O)OCCC[Si](C)(C)C)(C)C | C32H48ClNO7Si2
